* OA-SAR8 analog core reference netlist
.subckt cdac_array b7 b6 b5 b4 b3 b2 b1 b0 term topp
Cb7 topp b7 cap_cmim w=2.14u l=2.14u m=128
Cb6 topp b6 cap_cmim w=2.14u l=2.14u m=64
Cb5 topp b5 cap_cmim w=2.14u l=2.14u m=32
Cb4 topp b4 cap_cmim w=2.14u l=2.14u m=16
Cb3 topp b3 cap_cmim w=2.14u l=2.14u m=8
Cb2 topp b2 cap_cmim w=2.14u l=2.14u m=4
Cb1 topp b1 cap_cmim w=2.14u l=2.14u m=2
Cb0 topp b0 cap_cmim w=2.14u l=2.14u m=1
Cterm topp term cap_cmim w=2.14u l=2.14u m=1
.ends
.subckt sa_comp inp inn clk outp outn VDD VSS
M1 p inp tail VSS sg13_lv_nmos w=2.0u l=0.15u rfmode=1
M2 q inn tail VSS sg13_lv_nmos w=2.0u l=0.15u rfmode=1
M3 outn outp p VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
M4 outp outn q VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
MT tail clk VSS VSS sg13_lv_nmos w=3.0u l=0.3u rfmode=1
M5 outn outp VDD VDD sg13_lv_pmos w=6.0u l=0.13u rfmode=1
M6 outp outn VDD VDD sg13_lv_pmos w=6.0u l=0.13u rfmode=1
MS1 p clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u rfmode=1
MS2 q clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u rfmode=1
MS3 outn clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u rfmode=1
MS4 outp clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u rfmode=1
.ends
.subckt sw_bitcell bot vin ctl trk trkb VDD VSS
MND bot ctl VSS VSS sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
MNT bot trk vin VSS sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
.ends
.subckt sw_bitcell11 bot vin ctl trkb gb VDD VSS VSSB
MND bot ctl VSS VSSB sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
MNT bot gb vin VSSB sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
.ends
.subckt sw_bitcell10 bot vin ctl trkb gb VDD VSS
MND bot ctl VSS VSS sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
MNT bot gb vin VSS sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
.ends
.subckt bstrap vin out ckb gb VDD VSS
Msw  out gb  vin VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
MN_c gb  VDD x   VSS sg13_lv_nmos w=2.0u l=0.15u rfmode=1
MN_g x   ckb VSS VSS sg13_lv_nmos w=2.0u l=0.15u rfmode=1
MN_cb cb ckb VSS VSS sg13_lv_nmos w=2.0u l=0.15u rfmode=1
MP_ct ct gb  VDD ct  sg13_lv_pmos w=2.0u l=0.13u rfmode=1
MN_bt cb gb  vin VSS sg13_lv_nmos w=2.0u l=0.15u rfmode=1
MP_gt gb ckb ct  ct  sg13_lv_pmos w=2.0u l=0.13u rfmode=1
Cb   ct  cb  cap_cmim w=9.94u l=9.94u
.ends
.subckt sw_tg bot vin trk trkb VDD VSS
MNT bot trk vin VSS sg13_lv_nmos w=2.0u l=0.13u rfmode=1
MPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u rfmode=1
.ends
.subckt oa_sar8_acore12 vinp vinn vcm clk_cmp trk hold ctl7 ctl6 ctl5 ctl4 ctl3 ctl2 ctl1 ctl0 outp outn VDD VSS ctl0n ctl1n ctl2n ctl3n ctl4n ctl5n ctl6n ctl7n
Xmain b7 b6 b5 b4 b3 b2 b1 b0 term topm cdac_array
Xrep b7r b6r b5r b4r b3r b2r b1r b0r termr topr cdac_array
Xcmp topr topm clk_cmp outp outn VDD VSS sa_comp
Xsw0 b7 vinr ctl7 trkb gb VDD vssgp VSS sw_bitcell11
Xsw1 b6 vinr ctl6 trkb gb VDD vssgp VSS sw_bitcell11
Xsw2 b5 vinr ctl5 trkb gb VDD vssgp VSS sw_bitcell11
Xsw3 b4 vinr ctl4 trkb gb VDD vssgp VSS sw_bitcell11
Xsw4 b3 vinr ctl3 trkb gb VDD vssgp VSS sw_bitcell11
Xsw5 b2 vinr ctl2 trkb gb VDD vssgp VSS sw_bitcell11
Xsw6 b1 vinr ctl1 trkb gb VDD vssgp VSS sw_bitcell11
Xsw7 b0 vinr ctl0 trkb gb VDD vssgp VSS sw_bitcell11
Xsw8 term vinr VDD trkb gb VDD vssgp VSS sw_bitcell11
Xsw9 trkb VSS trk trk trkb VDD VSS sw_bitcell
Xsw10 topm vcm trk trkb VDD VSS sw_tg
MFP1 vssgp hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
MFP2 vssgp hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
MFN1 vssgn hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
MFN2 vssgn hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u rfmode=1
Xboot vinp vinr trkb gb VDD VSS bstrap
Xbootn vinn vinnr trkb gbn VDD VSS bstrap
Xswr0 b7r vinnr ctl7n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr1 b6r vinnr ctl6n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr2 b5r vinnr ctl5n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr3 b4r vinnr ctl4n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr4 b3r vinnr ctl3n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr5 b2r vinnr ctl2n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr6 b1r vinnr ctl1n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr7 b0r vinnr ctl0n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr8 termr vinnr VDD trkb gbn VDD vssgn VSS sw_bitcell11
Xtgr topr vcm trk trkb VDD VSS sw_tg
.ends
